US08877782B2
N-Cyclopropyl-6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 358 g, 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid (70 mg, 0.24 mmol) was converted using cyclopropylamine instead of 4-aminotetrahydropyran to the title compound (65 mg, 82%) which was obtained as a white solid. MS: m/e=337.3 [M+H]+.

reactant | 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.24 mmol, 70 mg | N1=C(C=CC=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C15H11N3O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinamide | 65 mg, 82% | C1(CC1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=NC=CC=C1)=O | C18H16N4O3
